US07026304B2
A: 2-(trimethylsily)ethyl-4-(iodomethyl)benzoate
To a solution of 4-(chloromethyl)benzoyl chloride (2.5 g, 13.22 mmol) in dichloromethane (100 ml) was added 2-(trimethylsilyl)ethanol (1.72 ml, 12.0 mmol). Triethylamine (9.21 ml, 66 mmol) was added and the reaction mixture stirred overnight. The dichloromethane was evaporated and the crude material taken up in ether and washed with water. The ether layer was dried (sodium sulfate) and evaporated to give a slightly yellow mobile oil. The oil (2.7 g) was dissolved in acetone (30 ml) containing sodium iodide (1.5 g) and stirred for two hours. The solvent was removed, ether added and the reaction filtered. The filtrate was then evaporated to give the title compound as a brown temperature unstable oil, 3.58 g, 75%.

reactant | 4-(chloromethyl)benzoyl chloride | 13.22 mmol, 2.5 g | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | 2-(trimethylsilyl)ethanol | 12.0 mmol, 1.72 ml | C[Si](CCO)(C)C | C5H14OSi
reactant | Triethylamine | 66 mmol, 9.21 ml | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 1.5 g | [I-].[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 2-(trimethylsily)ethyl-4-(iodomethyl)benzoate | C[Si](CCOC(C1=CC=C(C=C1)CI)=O)(C)C | C13H19IO2Si
